US06384065B1
In 22 ml of acetic acid was dissolved 2.20 g of 4,4-diethyl-2-cyclohexen-1-one, to which was added 0.22 g of 5% palladium-carbon. Under a pressure of 5 atmospheres, the mixture was stirred at ambient temperature for one hour under a stream of hydrogen. The reaction mixture was filtered, and the solvent was distilled off under reduced pressure. Purification of the residue by column chromatography [eluent: hexane:ethyl acetate=10:1] gave 1.90 g of 4,4-diethyl-1-cyclohexanone as a colorless oily product.

reactant | 4,4-diethyl-2-cyclohexen-1-one | 2.20 g | C(C)C1(C=CC(CC1)=O)CC | C10H16O
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 22 ml | C(C)(=O)O | C2H4O2
catalyst | palladium-carbon | 0.22 g | [C].[Pd]
product | 4,4-diethyl-1-cyclohexanone | 1.90 g | C(C)C1(CCC(CC1)=O)CC | C10H18O
